US08748456B2
To a suspension of 1.0 g of Pd—C (10 wt. %) was added ethyl 1-benzyl-3-oxopiperidine-4-carboxylate hydrochloride (10.0 g, 33.58 mmol) (Sigma-Aldrich) dissolved in Ethanol (120 mL). The reaction mixture was then heated at 50° C. under a hydrogen atmosphere (balloon) at atmospheric pressure and followed by HPLC and UPLC-MS. After 4 h at 50° C., the analyses revealed full conversion of the reaction. After cooling to room temperature, the crude mixture was filtered through celite. The celite was washed with EtOH and the filtrate was concentrated in vacuo to give the desired ethyl 3-oxopiperidine-4-carboxylate hydrochloride as an off-white solid (5.84 g, 28.12 mmol, 84% yield). 1HNMR (500 MHz, DMSO-d6): 1.25 (t, J 7.3 Hz, 3H); 2.58 (t, J 6.3 Hz, 2H); 3.26 (t, J 6.3 Hz, 2H); 3.67 (s, 2H), 7.22 (q, J 7.3 Hz, 2H); 9.50 (s, br, 1H); 11.90 (s, br, 1H).

reactant | ethyl 1-benzyl-3-oxopiperidine-4-carboxylate hydrochloride | 33.58 mmol, 10.0 g | Cl.C(C1=CC=CC=C1)N1CC(C(CC1)C(=O)OCC)=O
solvent | Ethanol | 120 mL | C(C)O | C2H6O
catalyst | Pd—C | 1.0 g | [Pd] | Pd
product | ethyl 3-oxopiperidine-4-carboxylate hydrochloride | 28.12 mmol, 5.84 g, 84% yield | Cl.O=C1CNCCC1C(=O)OCC | InChI=1S/C8H13NO3.ClH/c1-2-12-8(11)6-3-4-9-5-7(6)10;/h6,9H,2-5H2,1H3;1H
